US04466977
Preparation of trans-3,4-dichloro-N-methyl-N-[4-oxo-2-(1-pyrrolidinyl)cyclohexyl]benzeneacetamide
A mixture of trans-3,4-dichloro-N-methyl-N-[7-(1-pyrrolidinyl)-1,4-dioxaspiro[4.5]dec-8-yl]benzeneacetamide (12.3 g, 0.029 mol) 3N HCl solution (288 ml), and 432 ml of acetone was stirred at 60° C. under N2 atmosphere for one hour. Acetone was removed on a rotary evaporator and the mixture was extracted with chloroform. The chloroform extracts were dried (Na2SO4), concentrated in vacuo and diluted with ether. Refrigeration overnight gave white crystals which were dried at 60° C. in vacuo for two days to give 10.5 g (87%) of the titled compound, mp 148.0°-148.9° C. The mass spectrum indicated ion fragments at m/e 382-384 (M+, chlorine isotopic peaks). The ir and nmr spectra were consistent with the structure assignment.

reactant | trans-3,4-dichloro-N-methyl-N-[7-(1-pyrrolidinyl)-1,4-dioxaspiro[4.5]dec-8-yl]benzeneacetamide | 0.029 mol, 3N, 288 ml, 12.3 g | ClC=1C=C(C=CC1Cl)CC(=O)N([C@H]1[C@@H](CC2(OCCO2)CC1)N1CCCC1)C | C21H28Cl2N2O3
solvent | acetone | 432 ml | CC(=O)C | C3H6O
product | trans-3,4-dichloro-N-methyl-N-[4-oxo-2-(1-pyrrolidinyl)cyclohexyl]benzeneacetamide | 10.5 g, 87% | ClC=1C=C(C=CC1Cl)CC(=O)N([C@H]1[C@@H](CC(CC1)=O)N1CCCC1)C | C19H24Cl2N2O2
